US09359338B2
Step 1: Synthesis of 1-(3-nitro-5-(trifluoromethyl)phenyl)ethanol
Add sodium borohydride (95 mg, 2.44 mmol) to a solution of 1-(3-nitro-5-(trifluoromethyl)phenyl)ethanone (570 mg, 2.44 mmol) in methanol (5 mL), stir the mixture for 15 min at ambient temperature. Quench the reaction with water, adjust pH=7 with 1N hydrochloric acid, extract with ethyl acetate (50 mL×3), combine the organic layers, wash with brine, dry over sodium sulfate. Concentrate under reduced pressure to provide the crude product. Purify by flash chromatography (silica gel, EtOAc:PE=1:10) to afford the title compound (520 mg, 91.2%).

reactant | sodium borohydride | 2.44 mmol, 95 mg | [BH4-].[Na+]
reactant | 1-(3-nitro-5-(trifluoromethyl)phenyl)ethanone | 2.44 mmol, 570 mg | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)C(C)=O | C9H6F3NO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 1-(3-nitro-5-(trifluoromethyl)phenyl)ethanol | 520 mg, 91.2% | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)C(C)O | C9H8F3NO3
